US06566337B1
N-Methyl-N-[(1R)1-(N-methyl-N-{(1R)-1-[N-methyl-N-(2-(pyridinyl)ethyl)carbamoyl]-2-phenylethyl}carbamoyl)-2-(2-naphthyl)ethyl]carbamic acid tert-butyl ester (14.9 g, 24.5 mmol) was dissolved in dichloromethane (75 mL). Trifluoroacetic acid (75 mL, 0.978 mol) was added to the stirred solution. The reaction mixture was stirred for 40 min. The solvent was removed in vacuo. The product was dissolved in dichloromethane (50 mL) and sat. aqueous sodium hydrogen carbonate solution (40 mL). The mixture was neutralised with solid sodium hydrogen carbonate. Dichloromethane (100 mL) was added and the aqueous phase was extracted with dichloromethane (2×150 mL). The combined organic layers were dried over magnesium sulfate. The solvent was removed in vacuo, to give 11.9 g of (2R)-N-Methyl-2-(methylamino)-N-{(1R)-1-[N-methyl-N-(2-(pyridin-2-yl)ethyl)carbamoyl]-2-phenylethyl}-3-(2-naphthyl)propionamide.

reactant | N-Methyl-N-[(1R)1-(N-methyl-N-{(1R)-1-[N-methyl-N-(2-(pyridinyl)ethyl)carbamoyl]-2-phenylethyl}carbamoyl)-2-(2-naphthyl)ethyl]carbamic acid tert-butyl ester | 24.5 mmol, 14.9 g | C(C)(C)(C)OC(N([C@H](CC1=CC2=CC=CC=C2C=C1)C(N([C@H](CC1=CC=CC=C1)C(N(CCC1=NC=CC=C1)C)=O)C)=O)C)=O | C37H44N4O4
reactant | Trifluoroacetic acid | 0.978 mol, 75 mL | FC(C(=O)O)(F)F | C2HF3O2
solvent | dichloromethane | 75 mL | ClCCl | CH2Cl2
product | (2R)-N-Methyl-2-(methylamino)-N-{(1R)-1-[N-methyl-N-(2-(pyridin-2-yl)ethyl)carbamoyl]-2-phenylethyl}-3-(2-naphthyl)propionamide | 11.9 g | CN(C([C@@H](CC1=CC2=CC=CC=C2C=C1)NC)=O)[C@H](CC1=CC=CC=C1)C(N(CCC1=NC=CC=C1)C)=O | C32H36N4O2
